US07723330B2
Step D: Preparation of N-(4-(1-(4-methoxybenzyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
EDCI (27 mg, 0.14 mmol) was added to a stirred mixture of 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (11 mg, 0.047 mmol, prepared according to the procedure described for Example 19, Step C) and HOBt-hydrate (22 mg, 0.14 mmol) in DMF (0.3 mL) at ambient temperature, and the reaction mixture was stirred for 15 minutes at ambient temperature. 4-(1-(4-Methoxybenzyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorobenzenamine (12 mg, 0.024 mmol) and triethylamine (0.020 ml, 0.14 mmol) were then added, and the resulting mixture was stirred for 18 hours at ambient temperature. The reaction mixture was diluted with EtOAc and washed with water. The aqueous phase was re-extracted with EtOAc. The combined organic phases were washed with water, dried (Na2SO4), filtered, and concentrated in vacuo. The crude material was purified by preparative TLC (0.5 mm) and eluted with 15% MeOH/DCM (Rf=0.74). The product was obtained as a waxy solid (2 mg, 10%).

reactant | EDCI | 0.14 mmol, 27 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | 4-(1-(4-Methoxybenzyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorobenzenamine | 0.024 mmol, 12 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)N3CCN(CC3)CCOC)C=C1 | C27H31FN6O3
reactant | triethylamine | 0.14 mmol, 0.020 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-(1-(4-methoxybenzyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 2 mg, 10% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)N3CCN(CC3)CCOC)C=C1 | C38H36F2N8O5
